US09145415B2
To a solution of 2,2,3-trifluoro-3-(3-nitrophenyl)propan-1-amine (C34, 224 mg) in tetrahydrofuran (5 mL), triethylamine (200 μL) and di-tert-butyl dicarbonate (313 mg) were added at room temperature, and the mixture was stirred at the same temperature for 7 hours. To the reaction mixture, water and ethyl acetate were added. The organic layer was separated, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 100 to 50% hexane in ethyl acetate) to obtain tert-butyl (2,2,3-trifluoro-3-(3-nitrophenyl)propyl)carbamate (C35, 182 mg).

reactant | 2,2,3-trifluoro-3-(3-nitrophenyl)propan-1-amine | 224 mg | FC(CN)(C(C1=CC(=CC=C1)[N+](=O)[O-])F)F | C9H9F3N2O2
reactant | di-tert-butyl dicarbonate | 313 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 200 μL | C(C)N(CC)CC | C6H15N
product | tert-butyl (2,2,3-trifluoro-3-(3-nitrophenyl)propyl)carbamate | 182 mg | FC(CNC(OC(C)(C)C)=O)(C(C1=CC(=CC=C1)[N+](=O)[O-])F)F | C14H17F3N2O4
